US08193207B2
1) 5-Bromopyridine-2-carbonyl chloride
To a mixture of 5-bromopyridine-2-carboxylic acid (2.5 g, 12 mmol) in methylene chloride (10.0 mL) was added oxalyl chloride (1.6 mL, 18 mmol), followed by N,N-dimethylformamide (0.020 mL, 0.26 mmol). After stirred at RT for 2 h, the mixture was evaporated under reduced pressure. The residue was the acid chloride which was used directly in next step reaction.

reactant | 5-bromopyridine-2-carboxylic acid | 12 mmol, 2.5 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | oxalyl chloride | 18 mmol, 1.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.26 mmol, 0.020 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromopyridine-2-carbonyl chloride | BrC=1C=CC(=NC1)C(=O)Cl | C6H3BrClNO
